US07037916B2
The N-Boc-L-norleucine butylamide in methanol is treated with acetyl chloride. After 45 minutes, all volatiles are removed under reduced pressure to yield L-norleucine butylamide hydrochloride.

reactant | N-Boc-L-norleucine butylamide | C(CCC)NC([C@@H](NC(=O)OC(C)(C)C)CCCC)=O | C15H30N2O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | methanol | CO | CH4O
product | L-norleucine butylamide hydrochloride | Cl.C(CCC)NC([C@@H](N)CCCC)=O | InChI=1S/C10H22N2O.ClH/c1-3-5-7-9(11)10(13)12-8-6-4-2;/h9H,3-8,11H2,1-2H3,(H,12,13);1H/t9-;/m0./s1
